US07888364B2
Procedure H was performed to couple 3-(chlorosulfonyl)benzoic acid with ethanolamine to produce 3-(2-hydroxyethylsulfamoyl)benzoic acid which was purified by reverse phase HPLC.

reactant | 3-(chlorosulfonyl)benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | ethanolamine | C(O)CN | C2H7NO
product | 3-(2-hydroxyethylsulfamoyl)benzoic acid | OCCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C9H11NO5S
